US09023840B2
Step 3: 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide
Boron trifluoride etherate (0.051 mL, 0.40 mmol) was added to a solution of 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide in acetonitrile (1.0 mL) at 0° C. under N2. The reaction mixture was stirred at room temperature for 3 h. (LCMS (M+H)+: m/z=561.3). Then the mixture was cooled to 0° C., water (0.13 mL) was added. After 30 min, 5.0 M ammonium hydroxide in water (0.2 mL, 1 mmol) was added slowly at 0° C. over 5 min. The reaction mixture was stirred at room temperature overnight, and purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=531.0. 1H NMR (400 MHz, DMSO-d6): δ 12.62 (br, 1H), 9.07 (s, 1H), 8.84 (s, 1H), 8.55 (s, 1H), 8.51 (dd, J=8.8, 1.2 Hz, 1H), 7.78 (br, 1H), 7.35 (dd, J=12.6, 6.5 Hz, 1H), 7.23 (d, J=1.9 Hz, 1H), 6.65 (dd, J=11.9, 7.3 Hz, 1H), 4.76 (m, 1H), 4.70 (d, J=9.3 Hz, 2H), 4.44 (d, J=9.2 Hz, 2H), 3.76 (s, 2H), 1.30 (d, J=7.1 Hz, 3H).

reactant | Boron trifluoride etherate | 0.40 mmol, 0.051 mL | B(F)(F)F.CCOCC
reactant | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)N[C@H](C(F)(F)F)C)C=C1F)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C30H33F5N8O2Si
reactant | water | 0.13 mL | O | H2O
reactant | ammonium hydroxide | 5.0 M | [OH-].[NH4+]
reactant | water | 1 mmol, 0.2 mL | O | H2O
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
product | 4-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-2,5-difluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | C(#N)CC1(CN(C1)C1=CC(=C(C(=O)N[C@H](C(F)(F)F)C)C=C1F)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C24H19F5N8O
